US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-2-methylpropane-1-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 34 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and N-(2-bromophenyl)isobutylsulfonamide. MS (ESI): mass calcd. for C20H21FN4O2S, 400.14; m/z found, 401.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.38 (s, 1H), 8.14 (s, 1H), 7.96 (m, 1H), 7.49 (d, J=7.0, 1H), 7.45-7.30 (m, 5H), 2.77 (d, J=6.5, 2H), 2.15-2.02 (m, 1H), 0.97 (d, J=6.7, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)isobutylsulfonamide | BrC1=C(C=CC=C1)NS(=O)(=O)CC(C)C | C10H14BrNO2S
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-2-methylpropane-1-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)CC(C)C)F | C20H21FN4O2S
